2113-08-16 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -was intubated for acute psychosis - very combattive --- CK elevated
   and trended upward
   -LP done
   -resp precautions d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-16**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.38/35/151/20/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   355 K/uL
   11.6 g/dL
   82 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   16 mg/dL
   113 mEq/L
   142 mEq/L
   35.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2113-8-15**]  04:35 PM
                             [**2113-8-15**]  04:59 PM
                             [**2113-8-16**]  04:45 AM
                             [**2113-8-16**]  05:17 AM
   WBC
   10.2
   9.5
   Hct
   29.5
   35.0
   Plt
   356
   355
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   20
   22
   Glucose
   83
   82
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:2546/14/<0.01, ALT / AST:53/89, Alk Phos / T Bili:95/0.4,
   Differential-Neuts:63.2 %, Lymph:27.8 %, Mono:4.1 %, Eos:4.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:4.0 g/dL, LDH:242 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   57 y.o. man with DM, HTN, and paranoid schizophrenia, presents from
   inpatient Psych facility with ARF.
   .
   # Altered mental status: This episode could certainly represent
   worsening of psychiatric disease, though other etiologies must be ruled
   out. Most concerned about primary CNS process, especially
   meningitis/encephalitis. Plan for head CT followed by lumbar puncture
   if no mass lesions. However, his current agitation precludes head
   imaging without intubation. Other reasons for this agitation/delirium
   could be other infection (though CXR clear and UA clear), medication
   effect (though no fever and not rigid as would expect from NMS), and
   seizure activity (though no prior history and unlikely to be status
   with patient's vocal outbursts and movements).
   - urgent head CT once intubated
   - plan for LP after head CT if no mass effect
   - cover for bacterial meningitis with vancomycin 1 g q12h, ceftriaxone
   2 g q12h, and ampicillin 2 g q6h
   - droplet precautions until rule out meningitis
   - cover acyclovir 10 mg/kg q8h (700 mg)
   - if CT/LP unrevealing, plan for MRI head later today
   - Neurology consultation for other etiology
   - if possible, would like to extubate patient following completion of
   studies
   - if agitation persists, could re-dose with haldol with close
   monitoring of QTc and aggressive lyte repletion
   - appreciate psychiatric input
   .
   # Respiratory alkalosis: Like related to acute mental status change as
   above. pH change is appropriate for change in bicarb. Appropriate
   compensation with metabolic acidosis.
   .
   # AG metabolic acidosis: compensatory for acute respiratory alkalosis,
   accompanied by elevation in lactate. Repeat ABG once intubated to make
   re-evaluate lactate and pH.
   .
   # Recent syncopal event: ? etiology and workup that accompanied the
   event. Could be [**1-7**] hypovolemia though other considerations include
   intracranial pathology or cardiac pathology.
   - attempt to obtain records from [**Hospital1 586**]/[**Hospital1 587**]
   - head imaging as above
   - ECHO to evaluate LV function, valves
   .
   # Anemia: MCV low 80s, hct 33. Last Hct in our system several years ago
   38. Got IVF so likely dilutional but will continue to monitor.
   - add on iron studies
   - trend Hct
   - guaiac stools
   .
   # Elevated CK: Likely related to patient's struggling against
   restraints and tensing of muscles. Continue to trend with MB & troponin
   though cardiac ischemia unlikely.
   - trend CK
   .
   # Transaminitis: Could also be related to muscle damage and unclear if
   normal at baseline. Does have slightly elevated ALT at [**Hospital1 5**] from [**2110**].
   If chronic, could be related to antipsychotic medications.
   - trend transaminases
   .
   # Schizophrenia: Would like to resume oral medications as soon as
   possible, especially clozaril.
   - resume medications PO when able
   .
   # DM2: Hold oral hypoglycemics. FS Q6h. Cover with RISS.
   .
   # Hypertension: Not on meds at home. Currently normotensive. Continue
   to monitor.
   .
   # FEN: NPO for now. Replete lytes, esp K & Mg, given QT lengthening.
   .
   # Ppx: SC heparin, no need for PPI currently, add bowel meds if
   necessary
   .
   # CODE: FULL, confirmed with mother [**Name (NI) 588**], who is HCP
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2113-08-17 07:45:00 Physician Resident Progress Note
24 Hour Events:
   - Had MRI yesterday and was extubated post procedure
   - Stopped all abx but continued acyclovir until HSV PCR clears
   - CSF showed macrophages with siderotic granules, still unclear on the
   significance of this
   - Echo was suboptimal but unrevealing
   - Got 25mg of IV Haldol and 4mg of IV Ativan without much improvement
   of agitation.
   - Then pt developed a fever to 101.9. Concern for NMS vs infection.
   Re-cultured, got a CXR, and stopped any further injections of haldol.
   - Switched to Precedex.
   - At approx 5:30 am, pt settled down, but then became apneic, perhaps
   [**1-7**] to resp alkalosis.  Pressures were also low at that time, SBPs
   80s.  Stopped Precedex for 5 minutes and apnea resolved and pressures
   increased to 90s-100s.
   - More appropriate and less agitated this morning.  Reports that he is
   thirsty and tired.
   - BPs have trended down, but are overall tolerating the Precedex.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir
   Infusions:
   Precedex
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-17**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm 101.9
   Tc 99.4
   HR 92 (80s-120s)
   BP 95/50 (90s-160s/30s-70s)
   RR 14 (teens-40s)
   SaO2 97% (96-100%)
                  Total In:
                                                                     2.0 L
                                                                     1.6 L
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     4.5 L
                                                                      .4 L
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.48/14/124 on RA at 2am
   Physical Examination
   Gen: Awake, alert, answers occasional questions appropriately but then
   asks inappropriate questions
   Peripheral Vascular: 2+ PT pulses
   CV: RRR no m/r/g
   P: CTAB no w/r/r
   Abd: S NT ND, hypoactive BS
   Skin:  No rashes.
   Neurologic: Moving all four extremities
   Labs / Radiology
   337 K/uL
   11.4 g/dL
   92 mg/dL
   1.1 mg/dL
   11 mEq/L
   4.0 mEq/L
   13 mg/dL
   113 mEq/L
   145 mEq/L
   34.9 %
   15.0 K/uL
        [image002.jpg]
   Midnight
                             [**2113-8-15**]  04:35 PM
                             [**2113-8-15**]  04:59 PM
                             [**2113-8-16**]  04:45 AM
                             [**2113-8-16**]  05:17 AM
                             [**2113-8-16**]  11:51 PM
                             [**2113-8-17**]  01:13 AM
                             [**2113-8-17**]  02:03 AM
   WBC
   10.2
   9.5
   15.0
   Hct
   29.5
   35.0
   34.9
   Plt
   356
   355
   337
   Cr
   0.9
   1.0
   1.1
   TropT
   <0.01
   <0.01
   TCO2
   20
   22
   11
   Glucose
   83
   82
   97
   92
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:[**2134**]/14/<0.01, ALT / AST:63/97, Alk Phos / T Bili:95/0.4,
   Differential-Neuts:89.4 %, Lymph:7.3 %, Mono:2.8 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:4.0 g/dL, LDH:242 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Echo:
   The left atrium is normal in size. No atrial septal defect is seen by
   2D or color Doppler. Left ventricular wall thickness, cavity size, and
   global systolic function are normal (LVEF>55%). Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. There is no ventricular septal defect. Right ventricular
   chamber size and free wall motion are normal. The aortic valve leaflets
   (3) appear structurally normal with good leaflet excursion and no
   aortic regurgitation. The mitral valve appears structurally normal with
   trivial mitral regurgitation. The pulmonary artery systolic pressure
   could not be determined. There is no pericardial effusion.
   MR [**Name13 (STitle) **]:
   1. Small bilateral subdural fluid collections, left greater than right,
   as
   described above. These are most consistent with chronic subdural
   hematomas.
   2. No evidence for ischemia or infection.
   Assessment and Plan
   57 y.o. man with DM, HTN, and paranoid schizophrenia, presents from
   inpatient Psych facility altered mental status
   .
   # Altered mental status: Most likely delirium superimposed on chronic
   psychiatric illness, though other etiologies must be ruled out. Most
   concerned about primary CNS process, especially
   meningitis/encephalitis, other infection (though CXR clear and UA
   clear), medication effect, and seizure activity (though no prior
   history and unlikely to be status with patient's vocal outbursts and
   movements).
   - MRI only showed small bilat chronic subdurals and no ischemia.
   - Will discuss significance of macrophages on LP and elevated protein
   with Neurology.  [**Month (only) 8**] be related to schitzophrenia.  Otherwise, CSF only
   significant for increased protein.  Gram stain and crypto antigen were
   negative.
   - D/C Vanc/Cef/Amp as meningitis unlikely
   - cover acyclovir 10 mg/kg q8h (700 mg) pending PCR results
   - Following extubation, pt was acutely agitated.  Attempted to treat
   with Haldol while closely monitoring QTc and lytes.  However, pt was
   too agitated to check lytes as needed.  Also, pt developed a fever.
   Due to concern of NMS, held Haldol.  However, most likely not NMS given
   his lack of rigidity.
   - Tried Precedex which provided good control for several hours.
   However, by early morning, his BP was no longer tolerating high enough
   doses to suppress his agitation.
   - Will follow up with psych regarding next best treatment.
   - RPR, CSF studies FTABS and VDRL- pending
   - Also, TSH pending per psych
   - Will do EEG once off sedation.
   .
   # Respiratory alkalosis:
   - Had resolved when intubated, but worsened once extubated due to pt
   constant screaming and heavy breathing.
   # metabolic acidosis: Gap closed.  Acidosis is compensatory for acute
   respiratory alkalosis.  Lactate normalized
   .
   # Recent syncopal event:  Further history casts doubt on whether there
   was such an event.  Would consider Echo if concerned.
   .
   # Anemia: MCV low 80s, hct 33. Last Hct in our system several years ago
   38. Got IVF so likely dilutional but will continue to monitor.  Hct up
   today.  Ferritin was 200, does not need Iron.
   - trend Hct
   - guaiac stools
   .
   # Elevated CK: Trending down today.   Likely related to patient's
   struggling against restraints and tensing of muscles. Continue to trend
   with MB & troponin though cardiac ischemia unlikely.  Also, could
   signify NMS
   - Continue to monitor.
   .
   # Transaminitis: Could also be related to muscle damage and unclear if
   normal at baseline. Does have slightly elevated ALT at [**Hospital1 5**] from [**2110**].
   If chronic, could be related to antipsychotic medications.
   - trend transaminases
   .
   # Schizophrenia: Would like to resume oral medications as soon as
   possible, especially clozaril.
   - Can resume [**Hospital1 **] dosing of Clozaril when able to take po and when sure
   his BP can tolerate the med
   .
   # DM2: Hold oral hypoglycemics. FS Q6h. Cover with RISS.
   .
   # Hypertension: Not on meds at home. Has been slightly hypotensive with
   the precedex.  Continue to monitor.  Becomes tachycardic when acutely
   agitated.
   .
   # FEN: Advanced to sips; can consider advancing to fulls later today.
   Replete lytes, esp K & Mg, given QT lengthening.
   .
   # Ppx: SC heparin, no need for PPI currently, add bowel meds if
   necessary
   .
   # CODE: FULL, confirmed with mother [**Name (NI) 588**], who is HCP
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Will discontinue Precedex.  Will talk to psych  today about best
   regimen to treat pt in light of fever and concern for NMS.  However,
   the likelihood for NMS remains low.  For now, will treat agitation with
   BDZ.  Will get EEG today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 584**], MD
   on:[**2113-8-17**] 11:54 ------

2113-08-18 05:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   EEG done, but too late for a read.
   Psych recommended restarting Closapine 200 mg [**Hospital1 **] tommorow AM if blood
   pressure tolerated yesterday's dose at 1PM.
   Very agitated overnight.  Got multiple doses of haldol and benzos with
   no effect.  Psych saw.  No other suggestions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-18**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///17/
   Physical Examination
   Gen: Awake, alert, answers occasional questions appropriately but then
   asks inappropriate questions
   Peripheral Vascular: 2+ PT pulses
   CV: RRR no m/r/g
   P: CTAB no w/r/r
   Abd: S NT ND, hypoactive BS
   Skin:  No rashes.
   Neurologic: Moving all four extremities.  No rigidity
   Labs / Radiology
   425 K/uL
   12.3 g/dL
   157 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.1 mEq/L
   13 mg/dL
   111 mEq/L
   143 mEq/L
   35.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2113-8-15**]  04:59 PM
                             [**2113-8-16**]  04:45 AM
                             [**2113-8-16**]  05:17 AM
                             [**2113-8-16**]  11:51 PM
                             [**2113-8-17**]  01:13 AM
                             [**2113-8-17**]  02:03 AM
                             [**2113-8-17**]  09:45 AM
                             [**2113-8-17**]  03:50 PM
                             [**2113-8-17**]  06:06 PM
                             [**2113-8-18**]  02:55 AM
   WBC
   10.2
   9.5
   15.0
   14.6
   17.0
   Hct
   29.5
   35.0
   34.9
   29.7
   31.9
   35.6
   Plt
   356
   355
   337
   218
   425
   Cr
   0.9
   1.0
   1.1
   0.9
   1.1
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   22
   11
   Glucose
   83
   82
   97
   92
   138
   194
   157
   Other labs: PT / PTT / INR:13.9/28.7/1.2, CK / CKMB /
   Troponin-T:1103/14/<0.01, ALT / AST:67/77, Alk Phos / T Bili:95/0.4,
   Differential-Neuts:89.4 %, Lymph:7.3 %, Mono:2.8 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:4.0 g/dL, LDH:242 IU/L, Ca++:10.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   57 y.o. man with DM, HTN, and paranoid schizophrenia, presents from
   inpatient Psych facility altered mental status
   .
   # Altered mental status: Most likely delirium superimposed on chronic
   psychiatric illness, though other etiologies must be ruled out. Most
   concerned about primary CNS process, especially
   meningitis/encephalitis, other infection (though CXR clear and UA
   clear), medication effect, and seizure activity (though no prior
   history and unlikely to be status with patient's vocal outbursts and
   movements).
   - MRI only showed small bilat chronic subdurals and no ischemia.
   - Will discuss significance of macrophages on LP and elevated protein
   with Neurology.  [**Month (only) 8**] be related to schitzophrenia.  Otherwise, CSF only
   significant for increased protein.  Gram stain and crypto antigen were
   negative.
   - D/C Vanc/Cef/Amp as meningitis unlikely
   - cover acyclovir 10 mg/kg q8h (700 mg) pending PCR results
   - Following extubation, pt was acutely agitated.  Attempted to treat
   with Haldol while closely monitoring QTc and lytes.  However, pt was
   too agitated to check lytes as needed.  Also, pt developed a fever.
   Due to concern of NMS, held Haldol.  However, most likely not NMS given
   his lack of rigidity.
   - Tried Precedex which provided good control for several hours.
   However, by early morning, his BP was no longer tolerating high enough
   doses to suppress his agitation.
   - Will follow up with psych regarding next best treatment.
   - RPR, CSF studies FTABS and VDRL- pending
   - Also, TSH pending per psych
   - Will do EEG once off sedation.
   .
   # Respiratory alkalosis:
   - Had resolved when intubated, but worsened once extubated due to pt
   constant screaming and heavy breathing.
   # metabolic acidosis: Gap closed.  Acidosis is compensatory for acute
   respiratory alkalosis.  Lactate normalized
   .
   # Recent syncopal event:  Further history casts doubt on whether there
   was such an event.  Would consider Echo if concerned.
   .
   # Anemia: MCV low 80s, hct 33. Last Hct in our system several years ago
   38. Got IVF so likely dilutional but will continue to monitor.  Hct up
   today.  Ferritin was 200, does not need Iron.
   - trend Hct
   - guaiac stools
   .
   # Elevated CK: Trending down today.   Likely related to patient's
   struggling against restraints and tensing of muscles. Continue to trend
   with MB & troponin though cardiac ischemia unlikely.  Also, could
   signify NMS
   - Continue to monitor.
   .
   # Transaminitis: Could also be related to muscle damage and unclear if
   normal at baseline. Does have slightly elevated ALT at [**Hospital1 5**] from [**2110**].
   If chronic, could be related to antipsychotic medications.
   - trend transaminases
   .
   # Schizophrenia: Would like to resume oral medications as soon as
   possible, especially clozaril.
   - Can resume [**Hospital1 **] dosing of Clozaril when able to take po and when sure
   his BP can tolerate the med
   .
   # DM2: Hold oral hypoglycemics. FS Q6h. Cover with RISS.
   .
   # Hypertension: Not on meds at home. Has been slightly hypotensive with
   the precedex.  Continue to monitor.  Becomes tachycardic when acutely
   agitated.
   .
   # FEN: Advanced to sips; can consider advancing to fulls later today.
   Replete lytes, esp K & Mg, given QT lengthening.
   .
   # Ppx: SC heparin, no need for PPI currently, add bowel meds if
   necessary
   .
   # CODE: FULL, confirmed with mother [**Name (NI) 588**], who is HCP
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: